US05843971
1,1-Bis(5-(2-methoxyethyl)-4-methyl-2-thiazolyl)-2,2,2- trifluoroethanol
From 5-(2-methoxyethyl)-4-methylthiazole and 5-(2-methoxyethyl)-4-methyl-2-trifluoroacetylthiazole. M.p. 68°-69° C. 13C Nmr (d6 -DMSO) 14.6, 26.0, 57.7, 71.4, 77.0 (q, J 30 Hz), 123.1 (q, J 286 Hz), 131.4, 148.1 and 162.0 ppm.

reactant | 5-(2-methoxyethyl)-4-methylthiazole | COCCC1=C(N=CS1)C | C7H11NOS
reactant | 5-(2-methoxyethyl)-4-methyl-2-trifluoroacetylthiazole | COCCC1=C(N=C(S1)C(C(F)(F)F)=O)C | C9H10F3NO2S
solvent | DMSO | CS(=O)C | C2H6OS
product | 1,1-Bis(5-(2-methoxyethyl)-4-methyl-2-thiazolyl)-2,2,2- trifluoroethanol | COCCC1=C(N=C(S1)C(C(F)(F)F)(O)C=1SC(=C(N1)C)CCOC)C | C16H21F3N2O3S2
